US06498154B1
5-(2,4,4-Trimethyl-1,4-dihydro-2H-3,1-benzoxazin-6-yl)1H-pyrrole-2-carbonitrile
A solution of 9H-fluoren-9-ylmethyl-6-[5-cyano-1H-pyrrol-2-yl]-2,4,4-trimethyl-2H-3,1-benzoxazine-1(4H)-carboxylate (0.1 g, 0.2 mmol) in 20% piperidine in DMF (5 mL) was stirred at room temperature under nitrogen for 10 minutes. The mixture was poured into a saturated ammonium sulfate solution (30 mL) and extracted with diethyl ether (3×30 mL). The combined organic layers were dried (MgSO4) and evaporated. The residue was purified by a silica gel column chromatography(hexane: ethyl acetate/3:1) to afford the title compound as a white solid (0.03 g, 56%): mp 201-202° C., 1H-NMR (DMSO-d6) δ 12.27 (s, 1H), 7.44 (d, 1H, J=2.1 Hz), 7.32 (dd, 1H, J=8.3, 1.1 Hz), 6.92 (dd, 1H, J=4.1, 2.6 Hz), 6.57 (d, 1H, J=8.3 Hz), 6.50 (dd, 1H, J=4.2, 2.6 Hz), 6.40 (s, 1H), 4.77-4.80 (m, 1H), 1.51 (s, 3H), 1.46 (s, 3H), 1.27 (d, 3H, J=5.7 Hz); MS (ESI) m/z 266 [M−H]−.

reactant | 9H-fluoren-9-ylmethyl-6-[5-cyano-1H-pyrrol-2-yl]-2,4,4-trimethyl-2H-3,1-benzoxazine-1(4H)-carboxylate | 0.2 mmol, 0.1 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1C(OC(C2=C1C=CC(=C2)C=2NC(=CC2)C#N)(C)C)C | C31H27N3O3
reactant | ammonium sulfate | 30 mL | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
solvent | piperidine | N1CCCCC1 | C5H11N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5-(2,4,4-Trimethyl-1,4-dihydro-2H-3,1-benzoxazin-6-yl)1H-pyrrole-2-carbonitrile | 0.03 g, 56% | CC1NC2=C(C(O1)(C)C)C=C(C=C2)C2=CC=C(N2)C#N | C16H17N3O
